US09169259B2
A mixture of 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (100 mg, 0.26 mmol), 5-aminoindolin-2-one (38 mg, 0.26 mmol), 1-methyl-1H-imidazole (84 mg, 1.02 mmol) and EDCI (196 mg, 1.02 mmol) in DMF (3 mL) was stirred at 50° C. for 48 h. Ethyl acetate (5 mL) and water (5 mL) were added. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (20 mL). The organic phases were combined and washed with brine (10 mL) then dried over Na2SO4. The residue was concentrated and purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 25% acetonitrile/75% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give a residue that was treated with 0.5 mL HCl and the suspension stirred for 5 min. Concentration gave 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-oxoindolin-5-yl)benzamide hydrochloride (2.3 mg, 2%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.67 (s, 1H), 10.36 (s, 1H), 10.31 (s, 1H), 8.88 (s, 1H), 8.51-8.47 (m, 2H), 8.20-8.12 (m, 3H), 7.75-7.68 (m, 2H), 7.54-7.44 (m, 2H), 7.09 (d, 1H, J=8.1 Hz), 6.81 (d, 1H, J=7.8 Hz), 4.03 (s, 3H), 3.78 (s, 3H), 3.08 (s, 2H). LC-MS: [M+H]+, 522, tR=1.48 min, HPLC: 99.05% at 214 nm, 96.91% at 254 nm, tR=5.184 min.

reactant | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.26 mmol, 100 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C20H17N5O4
reactant | 5-aminoindolin-2-one | 0.26 mmol, 38 mg | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | 1-methyl-1H-imidazole | 1.02 mmol, 84 mg | CN1C=NC=C1 | C4H6N2
reactant | EDCI | 1.02 mmol, 196 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl | 0.5 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-oxoindolin-5-yl)benzamide hydrochloride | 2.3 mg, 2% | Cl.COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC=3C=C4CC(NC4=CC3)=O)C=CC1)C=CN2 | InChI=1S/C28H23N7O4.ClH/c1-38-23-8-9-24(33-28(23)39-2)31-22-15-21(34-35-11-10-29-26(22)35)16-4-3-5-17(12-16)27(37)30-19-6-7-20-18(13-19)14-25(36)32-20;/h3-13,15H,14H2,1-2H3,(H,30,37)(H,31,33)(H,32,36);1H
